US07915159B2
2-Heptanone+Hexanol
0.0126 g tetramethylammonium acetate (Aldrich Chemical Company, Milwaukee, Wis. 53201), were added to 1.247 g 1-Hexanol, the mix was stirred until dissolution, then 44.24 g of 2-heptanone (Ultra Pure Solutions Inc., Castroville, Calif. 85012), and 4.49 g of dimethyldiacetoxysilane (Gelest, Tullytone, Pa. 19007) were added in a 60 ml particle free high density polyethylene bottle. The solution was mixed vigorously for one minute. After mixing, the diluted precursor was hand filtered to 0.1 μm using a teflon filter. Approximately 2.0-3.0 ml of The formulation was deposited onto an 8″ etched (C4F8; 20 s.) & ashed (plasma O2; 20 s.) carbon depleted porous SiCOH film (˜4000 Å thick NANOGLASS-E®). After deposition, the wafer was spun at 2500 rpm for 30 seconds to form a film. The films were heated at elevated temperatures for 1 min. each at 125° C., 200° C. and 350° C. in N2. The following results were observed:

reactant | 1-Hexanol | 1.247 g | C(CCCCC)O | C6H14O
reactant | 2-heptanone | 44.24 g | CC(CCCCC)=O | C7H14O
reactant | dimethyldiacetoxysilane | 4.49 g | C[Si](OC(C)=O)(OC(C)=O)C | C6H12O4Si
catalyst | tetramethylammonium acetate | 0.0126 g | C(C)(=O)[O-].C[N+](C)(C)C
solvent | N2 | N#N | N2
product | 2-Heptanone Hexanol | CC(CCCCC)=O.C(CCCCC)O | InChI=1S/C7H14O.C6H14O/c1-3-4-5-6-7(2)8;1-2-3-4-5-6-7/h3-6H2,1-2H3;7H,2-6H2,1H3
